US03940402
A mixture of 32.3 g (0.2 mole) of hexamethyldisilazane, 56.7 g (0.2 mole) of N-methyl-N-octadecylamine, and 0.2 g of ammonium chloride was refluxed for 2 days and then distilled to give 32.32 g of (N-methyl-N-octadecylamino)trimethylsilane as a colorless liquid, bp 168°-172° (0.8 mm), that solidified on cooling to a white solid, mp 35°-40°.

reactant | hexamethyldisilazane | 0.2 mole, 32.3 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | N-methyl-N-octadecylamine | 0.2 mole, 56.7 g | CNCCCCCCCCCCCCCCCCCC | C19H41N
catalyst | ammonium chloride | 0.2 g | [Cl-].[NH4+]
product | (N-methyl-N-octadecylamino)trimethylsilane | 32.32 g | CN(CCCCCCCCCCCCCCCCCC)[Si](C)(C)C | C22H49NSi
